US07786129B2
3-{4-[4-(4-Chloro-2-methylphenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(4-chloro-2-methyl-phenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(4-chloro-2-methyl-phenyl)-piperazine | ClC1=CC(=C(C=C1)N1CCNCC1)C | C11H15ClN2
product | 3-{4-[4-(4-Chloro-2-methylphenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC1=CC(=C(C=C1)N1CCN(CC1)CCCCC1(C(NC2=CC=CC=C12)=O)CC)C | InChI=1S/C25H32ClN3O.ClH/c1-3-25(21-8-4-5-9-22(21)27-24(25)30)12-6-7-13-28-14-16-29(17-15-28)23-11-10-20(26)18-19(23)2;/h4-5,8-11,18H,3,6-7,12-17H2,1-2H3,(H,27,30);1H
